US06528525B1
2-Benzyloxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-232 compound)
In a similar manner to that described in Example 2, methyl 2-benzyloxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (94 mg), which is the product of Example 158, was reacted with aqueous sodium hydroxide solution (1N, 0.36 ml) and the reaction mixture was treated to give the title compound (86 mg) as colorless crystals.

reactant | methyl 2-benzyloxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 94 mg | C(C1=CC=CC=C1)OC(C(=O)OC)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C31H30N2O5
reactant | sodium hydroxide | 1N, 0.36 ml | [OH-].[Na+]
product | 2-Benzyloxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 86 mg | C(C1=CC=CC=C1)OC(C(=O)O)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C30H28N2O5
